US07456164B2
Intermediate 56: ethyl 4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylate
NaH (60% dispersion in oil, 800 mg, 20 mmol) was added at 0° C. to a solution of ethyl {4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}acetate (2 g, 6.3 mmol) in THF (25 ml) and N-methylpyrrolidinone (2 ml) under nitrogen. The reaction was stirred at 0° C. for 15 minutes. Bis(2-bromoethyl)ether (1.2 ml, 9.54 mmol) and potassium iodide (500 mg, 3 mmol) were added and the mixture stirred at 0° C. for 45 minutes. The reaction was then warmed to room temperature and stirred for 18 hours. The reaction was cooled to 0° C., quenched with ice and solid carbon dioxide. The mixture was diluted with water and extracted with ethyl acetate (100 ml and 20 ml). The combined organic extracts were dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate:diethylamine (99:1 by volume) to provide the title compound (870 mg, 36%) as a pale yellow oil. LRMS APCI+ m/z 388 [MH]+.

reactant | NaH | 20 mmol, 800 mg | [H-].[Na+]
reactant | ethyl {4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}acetate | 6.3 mmol, 2 g | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)CC(=O)OCC | C19H27NO3
reactant | Bis(2-bromoethyl)ether | 9.54 mmol, 1.2 ml | BrCCOCCBr | C4H8Br2O
reactant | potassium iodide | 3 mmol, 500 mg | [I-].[K+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | N-methylpyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | ethyl 4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylate | 870 mg, 36% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)OCC | C23H33NO4
